US05574021
To a solution of 22.1 g (58 mmol) of 3,5-bis(benzoyl)-2-deoxy-2,2-difluororibose and 8.0 g (116 mmol) of imidazole in 410 ml of dimethylformamide (DMF) was added 8.8 g (58 mmol) of t-butyldimethylsilyl chloride. This reaction mixture was stirred for 12 hours at ambient temperature. The mixture was evaporated to dryness under reduced pressure. The residue was mixed with ethyl acetate and washed with 1.0N hydrochloric acid, saturated sodium bicarbonate, water, saturated sodium chloride solution, dried with sodium sulfate and evaporated to dryness under reduced pressure to yield 24.5 g of 1-(t-butyldimethylsilyloxy)-3, 5-bis(benzoyl)-2-deoxy-2,2-difluororibose.

reactant | 3,5-bis(benzoyl)-2-deoxy-2,2-difluororibose | 58 mmol, 22.1 g | C(C1=CC=CC=C1)(=O)[C@@](C(C=O)(F)F)(O)[C@H](O)C(O)C(C1=CC=CC=C1)=O | C19H16F2O6
reactant | imidazole | 116 mmol, 8.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 58 mmol, 8.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | 410 ml | CN(C=O)C | C3H7NO
product | 1-(t-butyldimethylsilyloxy)-3, 5-bis(benzoyl)-2-deoxy-2,2-difluororibose | 24.5 g | [Si](C)(C)(C(C)(C)C)OC(=O)C([C@](O)([C@H](O)C(O)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)(F)F | C25H30F2O7Si
